US04303655
A mixture of ethyl 2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate, which can be represented as ethyl 2-(2-hydroxy-1,3-thiazol-4-yl)glyoxylate, (1.45 g.) and 1 N sodium hydroxide aqueous solution (21 ml.) was allowed to stand for 30 minutes at room temperature. After the reaction, the reaction mixture was washed with diethyl ether and then adjusted to pH 1 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with water and diethyl ether and dried to give powder of 2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid, which can be represented as 2-(2-hydroxy-1,3-thiazol-4-yl)glyoxylic acid, (0.30 g.). On the other hand, the filtration was extracted with ethyl acetate, and the ethyl acetate was distilled off from the extract to give the same object compound (0.40 g.).

reactant | ethyl 2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate | O=C1SC=C(N1)C(C(=O)OCC)=O | C7H7NO4S
reactant | ethyl 2-(2-hydroxy-1,3-thiazol-4-yl)glyoxylate | OC=1SC=C(N1)C(C(=O)OCC)=O | C7H7NO4S
reactant | sodium hydroxide | 1 N, 21 ml | [OH-].[Na+]
product | 2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid | O=C1SC=C(N1)C(C(=O)O)=O | C5H3NO4S
